US06509361B1
Step 2: Preparation of Methyl 2-Cyanoisonicotinate:
To a solution of methyl isonicotinate N-oxide (20.0 g, 0.26 mol) in 200 mL of methylene chloride was added trimethylsilyl cyanide (16.1 g, 0.32 mol), followed by a solution of dimethylcarbamyl chloride (17.82 g, 0.32 mol) in 50 mL of methylene chloride at room temperature. The reaction mixture was stirred overnight (about eighteen hours) and then treated with 500 mL of 10% potassium carbonate solution. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated to 15.2 g of crude product as a brown solid, which was used without further purification.

reactant | methyl isonicotinate N-oxide | 0.26 mol, 20.0 g | C(C1=CC=[N+](C=C1)[O-])(=O)OC | C7H7NO3
reactant | trimethylsilyl cyanide | 0.32 mol, 16.1 g | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamyl chloride | 0.32 mol, 17.82 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | potassium carbonate | 500 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-Cyanoisonicotinate | C(#N)C=1C=C(C(=O)OC)C=CN1 | C8H6N2O2
